US05145893
N-(1-Octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)acetamide
A two-phase mixture of 260 grams (2.02 mol) of 70% aqueous tert-butyl hydroperoxide, 350 ml of n-octane, and 50 grams of sodium chloride is vigorously stirred. The organic phase is separated, dried over anhydrous magnesium sulfate and filtered. The filtrate is diluted with n-octane to a volumne of 580 ml. To a mixture of 100.0 grams (0.504 mol) of N-(2,2,6,6-tetramethylpiperidin-4-yl)acetamide, 1.8 gram of molybdenum trioxide, and 100 ml of n-octane preheated to 120° C. is added 300 ml of tert-butyl hydroperoxide solution over a 15-minute period. The mixture quickly turns red and water is collected in a Dean-Stark trap. The remaining tert-butyl hydroperoxide solution (280 ml) is added to-the refluxing reaction mixture over a period of 2.5 hours. The reaction mixture is heated at reflux for three hours after the addition is complete, then treated with 50.1 grams (0.50 mol) of 90% tert-butyl hydroperoxide and heated at reflux for 2.5 hours to discharge the red color of the N-oxyl intermediate. Solids are removed by filtration, and the filtrate is cooled to 5° C. and stirred with a solution of 40 grams of sodium sulfite in 400 ml of water to decompose unreacted hydroperoxide. The organic layer is dried over anhydrous magnesium sulfate and concentrated to an oil. Purification by flash chromatography (1:1 heptane:ethyl acetate) affords 100.2 grams (61% yield) of the title compound as a waxy solid.

reactant | n-octane | 350 ml | CCCCCCCC | C8H18
reactant | sodium chloride | 50 grams | [Cl-].[Na+]
reactant | N-(2,2,6,6-tetramethylpiperidin-4-yl)acetamide | 0.504 mol, 100.0 grams | CC1(NC(CC(C1)NC(C)=O)(C)C)C | C11H22N2O
reactant | n-octane | 100 ml | CCCCCCCC | C8H18
reactant | tert-butyl hydroperoxide | 300 ml | C(C)(C)(C)OO | C4H10O2
reactant | tert-butyl hydroperoxide | 0.50 mol, 50.1 grams | C(C)(C)(C)OO | C4H10O2
reactant | tert-butyl hydroperoxide | 2.02 mol, 260 grams | C(C)(C)(C)OO | C4H10O2
catalyst | molybdenum trioxide | 1.8 gram | [Mo](=O)(=O)=O
product | N-(1-Octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)acetamide | 100.2 grams, 61% yield | C(CCCCCCC)ON1C(CC(CC1(C)C)NC(C)=O)(C)C | C19H38N2O2
